US04051136
A mixture of 4.0 grams of 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one and 3.9 grams of 1-isopropylpiperazine is heated at 200°-206° C. in an atmosphere of dry nitrogen for 30 minutes. The mixture is cooled and the resulting solid is comminuted, washed with anhydrous ethyl ether, dried and then recrystallized from water to give 1-[2-hydroxy-3-(4-isopropyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-4-isopropyl-piperazinium hydroxide inner salt melting at about 194.5°-196.5° C.

reactant | 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one | 4.0 grams | N(C1=CC=CC=C1)C=1C(C(C1O)=NC1=CC=CC=C1)=O | C16H12N2O2
reactant | 1-isopropylpiperazine | 3.9 grams | C(C)(C)N1CCNCC1 | C7H16N2
product | 1-[2-hydroxy-3-(4-isopropyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-4-isopropyl-piperazinium hydroxide | [OH-].OC=1C(C(C1N1CCN(CC1)C(C)C)=O)=[N+]1CCN(CC1)C(C)C | InChI=1S/C18H30N4O2.H2O/c1-13(2)19-5-9-21(10-6-19)15-17(23)16(18(15)24)22-11-7-20(8-12-22)14(3)4;/h13-14H,5-12H2,1-4H3;1H2
